US05639779
5-(2-Ethylsulphonylethyl)-3-{N-[2(S)-hydroxy-1-propyl]-2(R)-pyrrolidinylmethyl}-1H-indole
To a stirred solution of 5-(2-ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole hydrochloride (Preparation 5; 200 mg, 0.56 mmol) in methanol (2 ml) at room temperature under nitrogen was added triethylamine (0.09 ml). After 10 minutes, (S)-(-)-propylene oxide (0.05 ml, 0.71 mmol) and then water (12 ml) were added and the reaction mixture was warmed at 50° C. for 18 hours. The cool reaction mixture was evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic phase was separated, washed with water, dried (Na2SO4) and evaporated under reduced pressure to give an oil. Purification by column chromatography on silica gel, eluting with a gradient of ethanol in dichloromethane (0 to 10% ethanol), afforded the title compound as a gum (48 mg). Rf 0.50 (SS 4). [α]D25 +58° (c=0.1, CH3OH). Found: C,57.44; H,7.58; N,6.39. C20H30N2O3S; 0.50 H2O; 0.50 CH2Cl2 requires C,57.26; H,7.50; N,6.52%. δ(CDCl3): 1.15(3H,d), 1.38(3H,t), 1.50-1.90(4H,m), 2.20-2.38(2H,m), 2.60-2.75(2H,m), 2.85-2.95(3H,m), 3.10(1H,m), 3.20-3.38(5H,m), 3.60-3.90(2H,m), 5.30(1H,s,CH2Cl2), 7.02(1H,d), 7.05(1H,s), 7.32(1H,d), 7.40(1H,s), 8.10(1H,br s).

reactant | 5-(2-ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole hydrochloride | 0.56 mmol, 200 mg | Cl.C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1
reactant | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-(-)-propylene oxide | 0.71 mmol, 0.05 ml | C1[C@H](C)O1 | C3H6O
reactant | water | 12 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 5-(2-Ethylsulphonylethyl)-3-{N-[2(S)-hydroxy-1-propyl]-2(R)-pyrrolidinylmethyl}-1H-indole | 48 mg | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C[C@H](C)O | C20H30N2O3S
